US08003655B2
Intermediate 17: Preparation of (RS)-S-(3-aminophenyl)-N-(isopropylcarbamoyl)-S-methylsulfoximide
18.6 g iron powder in 198 mL ethanol and 1.93 mL conc. aq. hydrochloric acid were stirred for 30 minutes at room temperature. 7.8 g (27.3 mmol) (RS)-S-(3-nitrophenyl)-N-(isopropylcarbamoyl)-S-methylsulfoximide in 20 mL methanol were added. The mixture was stirred at 60° C. for 2 hours and filtered over a bed of silica gel. The residue was washed with hot ethanol. The combined filtrates were evaporated. The crude residue was purified by column chromatography (silica gel, dichloromethane:dichloromethane/ethanol 1:1) to give 4.53 g (65% yield) of the title compound.

reactant | (RS)-S-(3-nitrophenyl)-N-(isopropylcarbamoyl)-S-methylsulfoximide | 27.3 mmol, 7.8 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=NC(NC(C)C)=O)C | C11H15N3O4S
solvent | ethanol | 198 mL | C(C)O | C2H6O
solvent | hydrochloric acid | 1.93 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | iron | 18.6 g | [Fe] | Fe
product | (RS)-S-(3-aminophenyl)-N-(isopropylcarbamoyl)-S-methylsulfoximide | 4.53 g, 65% yield | NC=1C=C(C=CC1)S(=O)(=NC(NC(C)C)=O)C | C11H17N3O2S
